US08232269B2
Preparation 74: (Z)-4-(4-Cyano-phenyl)-4-hydroxy-2-oxo-but-3-enoic acid tert-butyl ester
A solution of 4-acetylbenzonitrile (13.2 g, 90.9 mmol) in anhydrous tetrahydrofuran (100 mL) was cooled to −70° C. under nitrogen and sodium bis(trimethylsilyl)amide solution (1.0 M in THF, 100 mL, 100 mmol) added dropwise over 30 minutes. The solution was stirred at −70° C. for 1 hour before di-tert-butyl oxalate (22.1 g, 109 mmol) was added. The resulting suspension allowed to warm to room temperature and stir for 16 hours. The suspension was poured onto water (250 mL) containing ammonium chloride (53.5 g, 1.0 mol) and extracted with ethyl acetate (100 mL+50 mL). The organic layer was washed with water (100 mL) and concentrated under reduced pressure to afford a dark solid residue. The residue was triturated with diethyl ether (130 mL) and the residue filtered and dried under reduced pressure to give the title compound as a brown solid (7.13 g, 29%). 1H NMR (400 MHz, CDCl3): δ 1.40 (9 H, s), 7.01 (1 H, br), 8.01-8.23 (4 H, m).

reactant | 4-acetylbenzonitrile | 90.9 mmol, 13.2 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | sodium bis(trimethylsilyl)amide | 100 mmol, 1.0 M, 100 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-tert-butyl oxalate | 109 mmol, 22.1 g | C(C(=O)OC(C)(C)C)(=O)OC(C)(C)C | C10H18O4
reactant | ammonium chloride | 1.0 mol, 53.5 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (Z)-4-(4-Cyano-phenyl)-4-hydroxy-2-oxo-but-3-enoic acid tert-butyl ester | 7.13 g, 29% | C(C)(C)(C)OC(C(\C=C(/O)\C1=CC=C(C=C1)C#N)=O)=O | C15H15NO4
